US07074806B2
Synthesis of 3-(5-Fluoro-2-methoxy-phenyl)-1-(1H-indol-2-ylmethyl)-3-methyl-1-trifluoromethyl-butylamine (Compound 2)
To a chilled (−78 C.) solution of 40 mg (0.30 mmol) of 2-methylindole in 3 mL of diethyl ether was added 0.56 mL (0.91 mmol) of a 1.6 M solution of n-BuLi in hexanes. The resulting orange solution was stirred for 5 min and treated with 0.60 mL (0.60 mmol) of a solution of 1 M solution of KOt-Bu in THF. The reaction was slowly warmed until a bright yellow precipitate formed. After 5 min, the reaction mixture was cooled to −78° C. and treated with 138 mg (0.362 mmol) of a solution of 2-methyl-propane-2-sulfinic acid [3-(5-fluoro-2-methoxy-phenyl)-3-methyl-1-trifluoromethyl-but-(Z)-ylidene]-amide in 0.5 mL of diethyl ether. Next, the mixture was warmed to room temperature, quenched with aqueous ammonium chloride and extracted with EtOAc (3×). The combined organic layers were dried over (MgSO4), filtered and concentrated. The residue was dissolved in 2 mL of methanol, 3 drops of concentrated HCl were added and the reaction warmed at 75° C. in a sealed tube. After 1 h, the reaction was cooled to room temperature, concentrated in vacuo, neutralized with aqueous sodium bicarbonate and extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), filtered and concentrated to leave an oil. The residue was purified by preparative thin layer chromatography eluting with toluene to afford an oil that had to be further purified by preparative thin layer chromatography eluting with hexanes-EtOAc (9:1) to afford 40 mg (33%) of the title compound.

reactant | 2-methylindole | 0.30 mmol, 40 mg | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | n-BuLi | [Li]CCCC
reactant | KOt-Bu | CC(C)(C)[O-].[K+]
reactant | 2-methyl-propane-2-sulfinic acid [3-(5-fluoro-2-methoxy-phenyl)-3-methyl-1-trifluoromethyl-but-(Z)-ylidene]-amide | FC=1C=CC(=C(C1)C(C/C(/C(F)(F)F)=N/S(=O)C(C)(C)C)(C)C)OC | C17H23F4NO2S
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | 0.5 mL | C(C)OCC | C4H10O
product | 3-(5-Fluoro-2-methoxy-phenyl)-1-(1H-indol-2-ylmethyl)-3-methyl-1-trifluoromethyl-butylamine | 40 mg, 33% | FC=1C=CC(=C(C1)C(CC(C(F)(F)F)(CC=1NC2=CC=CC=C2C1)N)(C)C)OC | C22H24F4N2O
